US06495644B1
Preparation of 1-(2′-Bromoethanoxy) 2,5-Dimethylbenzene (1)
A solution of 75.2 g (0.4 mol) 1,2-dibromoethane in 80 mL of anhydrous ethanol was stirred and heated to 65° C. under a nitrogen atmosphere, and then a solution of 24.4 g (0.2 mol) of 2,5-dimethylphenol and 10.8 g (0.2 mol) of NaOMe in anhydrous ethanol (100 mL) was added into the above solution dropwise. After finish adding, refluxed for 5 hours. The mixture was cooled to room temperature, washed and extract d with ethyl ether, 2M NaOH solution and deionized water. The organic phase was collected, dried with CaCl2 and then filtered. After evaporating the solvent from the filtrate, 1-(2′-bromoethanoxy) 2,5-dimethylbenzene was purified by vacuum distillation. 1H-NHR (CDCl3, ppm): δ 7.00 (d, 1H), δ 6.4 (d, 1H), δ 6.6 (s, 1H), δ 4.24 (t, 2H), δ 3.62 (t, 2H), δ 2.3 (s, 3H), δ 2.2 (s, 3H).

reactant | 1,2-dibromoethane | 0.4 mol, 75.2 g | BrCCBr | C2H4Br2
reactant | 2,5-dimethylphenol | 0.2 mol, 24.4 g | CC1=C(C=C(C=C1)C)O | C8H10O
reactant | NaOMe | 0.2 mol, 10.8 g | C[O-].[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(2′-Bromoethanoxy) 2,5-Dimethylbenzene | BrCCOC1=C(C=CC(=C1)C)C | C10H13BrO
